US05028606
A mixture of 12 parts of N-[4-[(3-chlorophenyl)(1H-imidazol-1-yl)methyl]-2-nitrophenyl]-3-oxobutanamide and 120 parts of sodium hydroxide solution 6.5% was stirred for 15 minutes at 80° C. After cooling, the product was obtained, yielding 10.25 parts (100%) of 6-[(3-chlorophenyl)(1H-imidazol-1-yl)methyl]-2(1H)-quinoxalinone, N4 -oxide (comp. 175).

reactant | N-[4-[(3-chlorophenyl)(1H-imidazol-1-yl)methyl]-2-nitrophenyl]-3-oxobutanamide | ClC=1C=C(C=CC1)C(C1=CC(=C(C=C1)NC(CC(C)=O)=O)[N+](=O)[O-])N1C=NC=C1 | C20H17ClN4O4
reactant | sodium hydroxide | [OH-].[Na+]
product | 6-[(3-chlorophenyl)(1H-imidazol-1-yl)methyl]-2(1H)-quinoxalinone | 100% | ClC=1C=C(C=CC1)C(C=1C=C2N=CC(NC2=CC1)=O)N1C=NC=C1 | C18H13ClN4O
